US05854227
3.9 g of 2,3-difluoro-6-nitrophenol and 3.0 g of chloropyruvic acid are reacted as described for chloroacetone in Example 8 of U.S. Pat. No. 4,382,892, to yield (2,3-difluoro-6-nitrophenoxy)-pyruvic acid. Catalytic hydrogenation (Pd/C or Raney Ni, room temperature) of the product yields in one step 7,8-difluoro-[1,4]benzoxazine-3-carboxylic acid, which is converted to its acid chloride and then is reacted first with triethylphosphite and next with diethylphosphite and a base, to form 7,8-difluoro-3-[hydroxy-bis(diethoxyphosphono)methyl]-[1,4]benzoxazine. Condensation of the latter with diethyl ethoxymethylidenemalonate, as in the above-mentioned patent, cyclization, and ester hydrolysis gives 9,10-difluoro-3-[hydroxy-bis(diethoxyphosphono)methyl]-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid, which is finally reacted with 1-methylpiperazine to yield 9-fluoro-3-[hydroxy-bis(diethoxyphosphono)methyl]-10-(4-methyl-l-piperazyl)-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid.

reactant | 2,3-difluoro-6-nitrophenol | 3.9 g | FC1=C(C(=CC=C1F)[N+](=O)[O-])O | C6H3F2NO3
reactant | chloropyruvic acid | 3.0 g | ClCC(C(=O)O)=O | C3H3ClO3
reactant | chloroacetone | ClCC(C)=O | C3H5ClO
product | (2,3-difluoro-6-nitrophenoxy)-pyruvic acid | FC1=C(OCC(C(=O)O)=O)C(=CC=C1F)[N+](=O)[O-] | C9H5F2NO6
